US07414060B2
Step 4: 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide
In a 5 ml microwave reaction vessel were dissolved 80 mg (0.31 mmol) 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide and 60 mg (0.38 mmol, 1.25 equiv.) of 3-Bromopyridine in 4 ml of dioxane. Cesium carbonate (139 mg, 0.43 mmol, 1.4 equiv.) were added and argon was bubbled through the suspension for 3 min. Then Xanthphos (58 mg, 0.10 mmol, 0.33 equiv.) and Pd2(dba)3.CHCl3 (32 mg, 0.03 mmol, 0.1 equiv.) were added and the mixture was heated for 2 h at 160° C. under microwave irradiation. To the mixture was added silica gel (5 g) and the mixture was evaporated to dryness in vaccuo. The powder was charged onto a flash chromatography column and eluted (heptane/ethyl acetate 2:1) to yield the title compound as a yellow solid (total 43 mg, 41%), MS (ISP): m/e=340.1, 342.0 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide | 0.31 mmol, 80 mg | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1N)C | C12H11ClN4O
reactant | 3-Bromopyridine | 0.38 mmol, 60 mg, 1.25 equiv. | BrC=1C=NC=CC1 | C5H4BrN
reactant | Cesium carbonate | 0.43 mmol, 139 mg, 1.4 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xanthphos | 0.10 mmol, 58 mg, 0.33 equiv. | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | CHCl3 | 0.03 mmol, 32 mg, 0.1 equiv. | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Methyl-3-(pyridin-3-ylamino)-pyridine-2-carboxylic acid (2-chloro-pyridin-4-yl)-amide | 43 mg, 41% | ClC1=NC=CC(=C1)NC(=O)C1=NC(=CC=C1NC=1C=NC=CC1)C | C17H14ClN5O
